US04578378
A mixture of thiomorpholin-3-one (1 equivalent), tetrahydrofuran (5-40 parts), and lithium diisopropylamide (1-2 equivalents) is stirred at -10° to 50° C. for 1 to 3 hours. To this mixture is added ethyl chloroformate (1 to 2 equivalents). After 1 to 3 hours' stirring, the mixture is acidified with hydrochloric acid, concentrated, diluted with ethyl acetate, washed with water, dried, and concentrated to give 3-oxothiomorpholine-2-carboxylic acid ethyl ester in 80 to 90% yield.

reactant | thiomorpholin-3-one | 1 equivalent | N1C(CSCC1)=O | C4H7NOS
reactant | lithium diisopropylamide | 1-2 equivalents | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl chloroformate | 1 to 2 equivalents | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-oxothiomorpholine-2-carboxylic acid ethyl ester | 80 to 90% yield | C(C)OC(=O)C1C(NCCS1)=O | C7H11NO3S
